US06664274B1
Scheme VI, steps A-D: 4-Cyclohexyl-3-methyl-4-oxo-3-(2-pyridyl)butyraldehyde is prepared from 2-(2-pyridyl)-propanaldehyde in a manner analogous to the procedure described in example 7 for the preparation of 4-cyclohexyl-3-methyl-4-oxo-3-phenylbutyraldehyde.

reactant | 2-(2-pyridyl)-propanaldehyde | N1=C(C=CC=C1)C(C=O)C | C8H9NO
reactant | 4-cyclohexyl-3-methyl-4-oxo-3-phenylbutyraldehyde | C1(CCCCC1)C(C(CC=O)(C1=CC=CC=C1)C)=O | C17H22O2
product | 4-Cyclohexyl-3-methyl-4-oxo-3-(2-pyridyl)butyraldehyde | C1(CCCCC1)C(C(CC=O)(C1=NC=CC=C1)C)=O | C16H21NO2
